* D:\Javi\Computacion_cuantica\2022_master_UPM_Quantum_computing\14_master_thesis\adiabatic_solve_linear_system\work\example_1.asc
R1 2 1 1
R2 0 2 0.5
V1 1 0 3
* V2
* GND
* Ie
.backanno
.end
