*D:\Javi\Computacion_cuantica\2022_master_UPM_Quantum_computing\14_master_thesis\upm_master_thesis_repo\test_circuits\test_circuit_4\test_circuit_4_mna.asc
R1 3 1 1
R2 4 2 1
R3 5 3 1
R4 4 0 1
V1 1 0 5
V2 2 0 2
E1 5 0 3 4 100
.op
.backanno
.end