* D:\Javi\Computacion_cuantica\2022_master_UPM_Quantum_computing\14_master_thesis\upm_master_thesis_repo\test_circuits\test_circuit_5\test_circuit_5.asc
R2 1 2 1
R3 4 3 1
R4 2 5 2
V1 1 0 2
I1 4 0 9
V2 0 5 0
E1 3 0 1 4 2
F1 2 3 V2 2
R1 1 4 2
.op
.backanno
.end